US05668291
2-Mercapto-5-Chloro-benzenesulfonamide
To 34.0 g (0.15 mol) of 2,5-dichloro-benzene sulfonamide in 200 mL of DMF was added 16.0 g (0.28 mol) of sodium hydrogensulfide. The mixture was refluxed for 18 hours, then cooled, concentrated, and the solids collected by filtration. The solids were dissolved in hot water, the pH adjusted to 4.0 and the precipitate filtered. This material was dried to yield 10.1 g of the title compound, mp 142°-144° C.

reactant | 2,5-dichloro-benzene sulfonamide | 0.15 mol, 34.0 g | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)N | C6H5Cl2NO2S
reactant | sodium hydrogensulfide | 0.28 mol, 16.0 g | S.[Na]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-Mercapto-5-Chloro-benzenesulfonamide | 10.1 g | SC1=C(C=C(C=C1)Cl)S(=O)(=O)N | C6H6ClNO2S2
